US04518596
8-Benzylamino-2-(N-formyl-piperazino)-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 181 from 8-benzylamino-2-chloro-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 94°-96° C. and N-formyl-piperazine.

reactant | 8-benzylamino-2-chloro-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCSCC2)Cl | C17H17ClN6S
reactant | N-formyl-piperazine | C(=O)N1CCNCC1 | C5H10N2O
product | 8-Benzylamino-2-(N-formyl-piperazino)-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCSCC2)N2CCN(CC2)C=O | C22H26N8OS
